US09029359B2
(R)-2-(3,5-dichlorophenylamino)-N-(1-(6-(ethylamino)pyrimidin-4-yl)piperidin-3-yl)acetamide
The title compound of Example 143 was prepared in similar manner as described in Example 134 except the key intermediate (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate was replaced with (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate and the 4-amino-6-chloropyrimidine-5-carbonitrile was substituted for 6-chloro-N-ethylpyrimidin-4-amine. 1H NMR (300 MHz, CD3OD) δ 8.08 (s, 1H), 6.63 (t, J=1.70 Hz, 1H), 6.48 (d, J=1.89 Hz, 2H), 5.70 (s, 1H), 3.89-4.03 (m, 2H), 3.74 (s, 2H), 3.55 (d, J=7.55 Hz, 2H), 1.91-2.03 (m, 1H), 1.76-1.87 (m, 2H), 1.65 (dt, J=4.20, 8.59 Hz, 1H), 1.26 (t, J=7.18 Hz, 3H). EIMS (m/z): calcd. for C19H24Cl2N6O (M+1H) 423. found 423.

reactant | (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)F)N[C@@H](C(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1CC1 | C21H29ClFN3O3
reactant | (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C18H25Cl2N3O3
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | 6-chloro-N-ethylpyrimidin-4-amine | ClC1=CC(=NC=N1)NCC | C6H8ClN3
product | (R)-2-(3,5-dichlorophenylamino)-N-(1-(6-(ethylamino)pyrimidin-4-yl)piperidin-3-yl)acetamide | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C1=NC=NC(=C1)NCC | C19H24Cl2N6O
